US06756378B2
To a solution of dimethyl (S)-4-[1-(tert-butoxycarbonyl)-2-pyrrolidinylmethoxy]phthalate (5.75 g, 14.62 mmol) in CH2Cl2 (25 mL) was added TFA (20 mL), and the resulting mixture was stirred for 50 min at room temp. The resulting mixture was concentrated in vacuo and made basic with sat. NaHCO3. The mix was extracted with CH2Cl2, washed with brine, dried over MgSO4, and evaporated off in vacuo. The residue was purified by column chromatography on silica-gel with CHCl3—MeOH (50:1, v/v) as eluent to give 790 mg (18%) dimethyl (S)-4-(2-pyrrolidinylmethoxy)phthalate as a brown oil. 1H-NMR (CDCl3) δ1.48-1.57 (m, 1 H), 1.72-1.84 (m, 2 H), 1.89-1.98 (m, 2 H), 2.91-3.03 (m, 2 H), 3.48-3.54 (m, 1 H), 3.82-3.97 (m, total 8 H), 6.98 (dd, 1 H, J=2.4, 8.8 Hz), 7.06 (d, 1 H, J=2.4 Hz), 7.78 (d, 1 H, J=8.8 Hz).

reactant | dimethyl (S)-4-[1-(tert-butoxycarbonyl)-2-pyrrolidinylmethoxy]phthalate | 14.62 mmol, 5.75 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)COC=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C20H27NO7
reactant | TFA | 20 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | dimethyl (S)-4-(2-pyrrolidinylmethoxy)phthalate | 790 mg, 18% | N1[C@@H](CCC1)COC=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C15H19NO5
